US04816452
a. Benzhydryl 2-(2-tritylaminothiazol-4-yl)-(Z)-2-(1-(4-nitrobenzyl)oxycarbonylcyclohexyloxyimino)acetate
Benzhydryl 2-(2-tritylaminothiazol-4-yl)-(Z)-2(hydroxyimino)acetate (3.44 g) was treated with 4-nitrobenzyl 1-bromocyclohexanecarboxylate as described in Example 5a to give the title compound (3.0 g, 61%) as a foam. δH (CDCl3) 1.26-2.30 (10H, m), 5.22 (2H, s), 6.39 (1H, s), 6.77 (1H, br s), 7.14 (1H, s), 7.28 (25H, s), 7.46 (2H, d), and 8.01 (2H, d).

reactant | Benzhydryl 2-(2-tritylaminothiazol-4-yl)-(Z)-2(hydroxyimino)acetate | 3.44 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=N/O | C37H29N3O3S
reactant | 4-nitrobenzyl 1-bromocyclohexanecarboxylate | BrC1(CCCCC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C14H16BrNO4
product | Benzhydryl 2-(2-tritylaminothiazol-4-yl)-(Z)-2-(1-(4-nitrobenzyl)oxycarbonylcyclohexyloxyimino)acetate | 3.0 g, 61% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=N/OC1(CCCCC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C51H44N4O7S
